US08106204B2
a) 2-Amino-6-chloro-4-phenylquinoline
A suspension of 1.4 g of powdered KOH in 25 ml of anhydrous acetonitrile stirred under an argon atmosphere was heated to boiling under reflux conditions for 30 minutes and then a solution of 1.15 g of 2-amino-5-chlorobenzophenone in 5 ml of anhydrous acetonitrile was added. The mixture was boiled with a reflux condenser for 12 hours. Cooling was followed by pouring into ice, extraction with ethyl acetate, washing with water and removal of the solvent by distillation.

reactant | KOH | 1.4 g | [OH-].[K+]
reactant | 2-amino-5-chlorobenzophenone | 1.15 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-Amino-6-chloro-4-phenylquinoline | NC1=NC2=CC=C(C=C2C(=C1)C1=CC=CC=C1)Cl | C15H11ClN2
